US05612371
A) Preparation of (Z)-2-benzoylthiomethyl-3-phenylpropenoic acid
The (Z)-2-bromomethyl-3-phenylpropenoic acid described in Example 1 (step A) is reacted with thiobenzoic acid according to the experimental procedure described in Example 1 (step B). Yield=67% (recrystallized in ether) m.p. 160° C. 1H NMR CDCl3 /TMS): 8.15 to 7.80 (m, 3H); 7.70 to 7.20 (m, 8H); 4.20 (s, 2H)

reactant | (Z)-2-bromomethyl-3-phenylpropenoic acid | BrC\C(\C(=O)O)=C/C1=CC=CC=C1 | C10H9BrO2
reactant | thiobenzoic acid | C(C1=CC=CC=C1)(=S)O | C7H6OS
product | (Z)-2-benzoylthiomethyl-3-phenylpropenoic acid | Yield=67% | C(C1=CC=CC=C1)(=O)SC\C(\C(=O)O)=C/C1=CC=CC=C1 | C17H14O3S
